* PSpice Model Editor - Version 16.2.0
*$
* CSD87334Q3D
***********************************************************************
*  (C) Copyright 2015 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD87334Q3D
* Date: 10/01/2015
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS546 –JULY 2015
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
**********************************************************************
**********************************************************************
*                                                                    *
* CSD87334Q3D   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
* SUBCKT Definition:  1=2=Vin 3=TG 4=TGR 5=BG 6=7=8=VSW 9=PGND
**********************************************************************
.SUBCKT CSD87334Q3D  1 2 3 4 5 6 7 8 9
*
XnfetHS  18  17  19  N37334
XnfetLS  19  16  15  N37334
RGls      5  10      10e-3
RGhs      3  11      14e-3
RDhs1     1  12      1.1e-6
RDhs2     2  12      1.1e-6
RGlr      4  13      10e-3
Rpsn1     8  14      0.80e-3
Rpsn2     7  14      0.80e-3
Rpsn3     6  14      0.80e-3
RSls      9  15      0.001e-3
LGls     10  16      0.61e-9
LGhs     11  17      0.99e-9
LDhs     12  18      0.45e-9
RLDhs    12  18      1
LGlr     13  19      0.61e-9
Lpsn     14  19      0.35e-9
.ENDS CSD87334Q3D  
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT N37334	1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  pWidthP  {0.5269*1.0534/0.5269}
.PARAM  pWidth   {pWidthP*1e6}
.PARAM  pLen     0.5u
.PARAM  perimP   {2.1*pWidthP}
.PARAM  perim    {perimP*1e6}
.PARAM  ptrc1    2.5e-3		; temp co of ext Rd / Rs
.PARAM  ptrc2    5.0e-6
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pWidthP} L={pLen} PS={perimP} PD={perimP}
DBD   3  1	 DBD	{240/318*1.0534/0.5269}
CBD0  3  1   {148e-12*6/22*1.0534/0.5269}
RBD0  3  1   {9e9*6/22*1.0534/0.5269}
CGD0  2 13	 {2E-12*6/22*1.0534/0.5269}
RGD  13  1   {2e6*6/22*1.0534/0.5269}
CGS0  2  3	 {4e-12*6/22*1.0534/0.5269}
M2   12 11 12 20  PMOSd W={pWidthP} L=0.085u PS={perimP} PD={perimP}
*CGS   2 99   {50e-11*6/22*1.0534/0.5269}
*RGS  99  3   {7.5/1.0534*0.5269}
DDx  20 10   DDx	{6/22*1.0534/0.5269}
DDG  14 11	 DD	{6/22*1.0534/0.5269}
DGD  14 10	 DD	{6/22*1.0534/0.5269}
RGG   2 11	 1.00
RSB  12  9	 rtemp {0.2475e-3/1.0534*0.5269}
RSS   9  3 	 rtemp {0.2475e-3/1.0534*0.5269}
RDD   1 10 	 rtemp {7.4083e-3/1.0534*0.5269}
CESD 11 12	 0.75e-10
******************************************************************* 
.MODEL  NMOS   NMOS (    LEVEL  = 7             Version = 3.2  
+ TNOM   = 27            LINT   = 0.095e-6      CAPMOD = 2
+ TOX    = 1.75e-8       NCH    = 2.15e17      NSUB   = 1.5e16
+ AGS    = 0.0           PVAG   = 0.0           U0     = 620
+ A0     = 1.00          A1     = 0.0           A2     = 1.0
+ UA     = 3.4e-9        UB     = 1.1e-19       VBM    = -10
+ UA1    = 1.0e-9        UB1    = -1.5e-18      UTE    = -1.50
+ KT1    = -0.65         KT2    = 0.022         KT1L   = 1.0e-15
+ DVT0   = 2.2           DVT1   = 0.53	      DVT2   = -0.033
+ ETA0   = 0.020         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.05          PDIBLC2= 0.005         NLX    = 1.75e-7
+ PSCBE1 = 7.0e8         PSCBE2 = 2e-7          PCLM   = 0.1
+ VOFF   = -0.41        NFACTOR= 1.40          JS     = 0
+ DROUT  = 0.9           DSUB   = 1.3           DELTA  = 0.045
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 150.00e-12       CGDO   = 0.1e-12       CGBO   = 1e-18  )
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.90         IS     = 7e-14
+ TOX    = 1.75e-8       NSUB   = 5.0e17	      
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 1e-18  )
******************************************************************* 
.MODEL DBD D (CJO=0.75e-9 VJ=1.00 M=0.4125 TNOM=27 FC=0.5 TT=1e-09 
+ XTI=2.4 BV=31 IS=1.0e-12 N=0.99 RS=3.50e-3 TRS1=3.5e-3)
.MODEL DD  D (CJO=3.35e-10 VJ=1.00 M=0.9 IS=1e-13 TNOM=27)
.MODEL DDx D (CJO=0.085e-09 VJ=0.9 M=0.9 IS=1e-13 RS=1.0 TNOM=25)
*******************************************************************
.model rtemp res (tc1={ptrc1} tc2={ptrc2})
.ENDS N37334
*$